US07968570B2
5-(2,2-Difluoro-ethoxy)-7-chloro-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one
A mixture of 5-bromo-7-chloro-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.126 g, 1 mmol), palladium(II) acetate (0.004 g, 0.02 mmol), rac-2-(di-t-butylphosphino)-1,1′-binaphthyl (0.009 g, 0.025 mmol), and cesium carbonate (0.163 g, 0.5 mmol) in toluene (5 mL) was treated with 2,2-difluoro ethanol (0.05 mL, 0.6 mmol) and stirred at 110° C. for 0.12 h. After this time the solvent was evaporated and silica gel column chromatography using, typically 30% ethyl acetate in hexane, afforded the desired product (0.06 g, 50%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.21 (m, 4H), 4.76 (s, 2H), 5.94-6.32 (m, 1H), 6.82 (s, 1H), 6.97 (s, 1H), 7.18 (d, 2H), 7.35 (d, 2H). GC-MS: m/z 421 (M)+.

reactant | 5-bromo-7-chloro-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 1 mmol, 0.126 g | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10BrClF3NO2
reactant | rac-2-(di-t-butylphosphino)-1,1′-binaphthyl | 0.025 mmol, 0.009 g | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
reactant | cesium carbonate | 0.5 mmol, 0.163 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2-difluoro ethanol | 0.6 mmol, 0.05 mL | FC(CO)F | C2H4F2O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.02 mmol, 0.004 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(2,2-Difluoro-ethoxy)-7-chloro-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.06 g, 50% | FC(COC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC(F)(F)F)F | C18H13ClF5NO3
